US07572811B2
1-Bromo-2-ethyl-4-methoxy-benzene (1 eq), piperazine-1-carboxylic acid tert-butyl ester (1.5 eq), Pd(OAc)2 (0.03 eq), phosphine ligand (0.06 eq), sodium t-butoxide (1.7 eq) are mixed in toluene and the resulting mixture is heated at 120° C. in microwave for 20 minutes. It is then diluted with EtOAc/hexane and filtered through celite. Flash column chromatography (20% EtOAc/hexane) gave 4-(2-Ethyl-4-methoxy-phenyl)-piperazine-1-carboxylic acid tert-butyl ester. MS: (ES+): 321.2 (M+1)+.

reactant | 1-Bromo-2-ethyl-4-methoxy-benzene | 1 eq | BrC1=C(C=C(C=C1)OC)CC | C9H11BrO
reactant | piperazine-1-carboxylic acid tert-butyl ester | 1.5 eq | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | phosphine | 0.06 eq | P | H3P
reactant | sodium t-butoxide | 1.7 eq | CC(C)([O-])C.[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc hexane | CCOC(=O)C.CCCCCC
catalyst | Pd(OAc)2 | 0.03 eq | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 4-(2-Ethyl-4-methoxy-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=C(C=C1)OC)CC | C18H28N2O3
